US06297234B1
(4-Bromo-2-chloro-phenyl)-(5,11-dihydro-pyrido [2,3-b][1,5] benzodiazepin-10-yl)-methanone
To a solution of 6,11-dihydro-5H-pyrido[2,3-b][1,5] benzodiazepine (3 g, 15.2 mmol) in N,N-dimethylformamide under nitrogen were added solid potassium carbonate (6.3 g, 45.6 mmol). The mixture was treated dropwise with a solution of the crude 4-bromo-2-chlorobenzoyl chloride (22.9 mmol) in N,N-dimethylformamide. After stirring at room temperature for 15 minutes, water was added under stirring. The resulting solid was collected, dissolved in chloroform, and the solution washed with 1N NaOH and brine. The organic layer was dried over anhydrous sodium sulfate and evaporated to dryness. The residue (purple foam) was dissolved in dichloromethane and absorbed onto a silica Merck-60 flash column. Elution with 20% ethyl acetate in hexane provided 3.4 g of the title compound as a foam which crystallized as a white solid by trituration from ethanol-ether, m.p. 165-168° C.

reactant | 6,11-dihydro-5H-pyrido[2,3-b][1,5] benzodiazepine | 15.2 mmol, 3 g | N1=CC=CC2=C1NC1=C(NC2)C=CC=C1 | C12H11N3
reactant | potassium carbonate | 45.6 mmol, 6.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-2-chlorobenzoyl chloride | 22.9 mmol | BrC1=CC(=C(C(=O)Cl)C=C1)Cl | C7H3BrCl2O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (4-Bromo-2-chloro-phenyl)-(5,11-dihydro-pyrido [2,3-b][1,5] benzodiazepin-10-yl)-methanone | 3.4 g | BrC1=CC(=C(C=C1)C(=O)C1=CC=CC=2NCC3=C(NC21)N=CC=C3)Cl | C19H13BrClN3O
